US07994185B2
2,6-difluoro-N-{2-fluoro-3-[2-(2-hydroxy-1,1-dimethylethyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 25 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(2-hydroxy-1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (200 mg, 0.360 mmol) and dimethylzinc (0.360 mL, 0.721 mmol) at 80° C. for 3 hours, the title compound was obtained as a solid (8 mg, 4% yield). MS (ESI): 534.9 [M+H]+

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(2-hydroxy-1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.360 mmol, 200 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(CO)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O3S2
reactant | dimethylzinc | 0.721 mmol, 0.360 mL | C[Zn]C
product | 2,6-difluoro-N-{2-fluoro-3-[2-(2-hydroxy-1,1-dimethylethyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C(=CC=C1)C=1N=C(SC1C1=NC(=NC=C1)C)C(CO)(C)C)F | C24H21F3N4O3S2
